US20010016207A1
A. 4-Phenyl-1-methyl-piperidine
4-Phenylpiperidine (12.4 mmol), paraformaldehyde (24.8 mmol) and tetraisopropoxy-titanium (12.4 mmol) are suspended in 1,2-dimethoxyethane (20 ml) and warmed to 60° C. for 30 minutes and stirred at rt for one additional hour. Sodium borohydride (12.4 mmol) is added in portions and the mixture is stirred at rt for 2 hours and at 60° C. for additional 3 hours. After cooling the solvent is evaporated and the residue is dissolved in a mixture of aqueous ammonia (60 ml) and ethyl acetate and filtered carefully. The mixture is extracted three times with ethyl acetate and the combined organic phases are dried over sodium sulfate and evaporated. A pale brown oil is obtained.

reactant | 4-Phenylpiperidine | 12.4 mmol | C1(=CC=CC=C1)C1CCNCC1 | C11H15N
reactant | paraformaldehyde | 24.8 mmol | C=O | CH2O
reactant | Sodium borohydride | 12.4 mmol | [BH4-].[Na+]
solvent | 1,2-dimethoxyethane | 20 ml | COCCOC | C4H10O2
catalyst | tetraisopropoxy-titanium | 12.4 mmol | C(C)(C)O[Ti](OC(C)C)(OC(C)C)OC(C)C
product | 4-Phenyl-1-methyl-piperidine | C1(=CC=CC=C1)C1CCN(CC1)C | C12H17N
